US07026340B2
((6-Chloro-3-pyridyl)methyl)malononitrile (58 mg) was dissolved in N,N-dimethylformamide (2 ml), and sodium hydride (60% in oil, 14 mg) was added to the solution with stirring under ice-cooling. Then allyl bromide (0.13 ml) was added dropwise thereto, and the mixture was stirred overnight at room temperature. To the reaction mixture was added 10% hydrochloric acid, and extracted with diethyl ether. The organic layer was washed successively with 10% hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography to give 26 mg of 2-allyl-2-((6-Chloro-3-pyridyl)methyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (1)).

reactant | ((6-Chloro-3-pyridyl)methyl)malononitrile | 58 mg | ClC1=CC=C(C=N1)CC(C#N)C#N | C9H6ClN3
reactant | sodium hydride | 14 mg | [H-].[Na+]
reactant | allyl bromide | 0.13 ml | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-allyl-2-((6-Chloro-3-pyridyl)methyl)malononitrile | 26 mg | C(C=C)C(C#N)(C#N)CC=1C=NC(=CC1)Cl | C12H10ClN3
